US05462694
An objective product was prepared in the same manner as in Example 2 except that 2-(2-decylindan-5-yl)pyrimidine-5-ol was changed to 2-(4-pentylphenyl)quinoline-6-ol and 3-phenylpropyl p-toluenesulfonate was changed to 5-phenylpentyl p-toluenesulfonate (Yield: 58.3%).

reactant | 2-(2-decylindan-5-yl)pyrimidine-5-ol | C(CCCCCCCCC)C1CC2=CC=C(C=C2C1)C1=NC=C(C=N1)O | C23H32N2O
reactant | 2-(4-pentylphenyl)quinoline-6-ol | C(CCCC)C1=CC=C(C=C1)C1=NC2=CC=C(C=C2C=C1)O | C20H21NO
reactant | 3-phenylpropyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCCCC1=CC=CC=C1)C | C16H18O3S
product | 5-phenylpentyl p-toluenesulfonate | Yield: 58.3% | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCC1=CC=CC=C1)C | C18H22O3S
